US09340526B2
3-[(Benzyloxy)methyl]-1-(3-chloropyridin-2-yl)-5-(trichloromethyl)-4,5-dihydro-1H-pyrazol-5-ol
5-(Benzyloxy)-1,1,1-trichloropent-3-yn-2-one (2.9 g, 0.01 mol) and 3-chloro-2-hydrazinopyridine (1.43 g, 0.01 mol) were initially charged in 20 ml of methyl tert-butyl ether (exothermic), and the mixture was stirred at 30° C. for a further 1 h. The solvent was concentrated by rotary evaporation and the resulting mixture was analysed by means of LC/MS. Only one isomer at m/e 435 was identified. The yield was 94%, the purity 92% (area percent).

reactant | 5-(Benzyloxy)-1,1,1-trichloropent-3-yn-2-one | 0.01 mol, 2.9 g | C(C1=CC=CC=C1)OCC#CC(C(Cl)(Cl)Cl)=O | C12H9Cl3O2
reactant | 3-chloro-2-hydrazinopyridine | 0.01 mol, 1.43 g | ClC=1C(=NC=CC1)NN | C5H6ClN3
solvent | methyl tert-butyl ether | 20 ml | C(C)(C)(C)OC | C5H12O
product | 3-[(Benzyloxy)methyl]-1-(3-chloropyridin-2-yl)-5-(trichloromethyl)-4,5-dihydro-1H-pyrazol-5-ol | yield was 94% | C(C1=CC=CC=C1)OCC1=NN(C(C1)(O)C(Cl)(Cl)Cl)C1=NC=CC=C1Cl | C17H15Cl4N3O2
